US05710139
To a solution of 6-chloro-2,3-dimethylquinoline (2.0 g, 10.5 mmol) in carbon tetrachloride (80 ml) benzoyl peroxide (100 mg) and N-bromosuccinimide (3.7 g, 21.0 mmol) were added. The reaction mixture was refluxed for 4 hours, and then cooled to room temperature. The precipitate was removed by filtration and the filtrate was evaporated in vacuo. The residue was flash chromatographed on silica gel with ethyl acetate/petroleum ether as the eluent to give 0.90 g 3-bromomethyl-6-chloro-2-methylquinoline.

reactant | 6-chloro-2,3-dimethylquinoline | 10.5 mmol, 2.0 g | ClC=1C=C2C=C(C(=NC2=CC1)C)C | C11H10ClN
reactant | N-bromosuccinimide | 21.0 mmol, 3.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 80 ml, 100 mg | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromomethyl-6-chloro-2-methylquinoline | 0.90 g | BrCC=1C(=NC2=CC=C(C=C2C1)Cl)C | C11H9BrClN
